US05439906
Step A: Synthesis of 1,3-dihydro-5-cyclohexyl-3(R,S)-[(benzyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-thione
1,3-Dihydro-5-cyclohexyl-3(R,S)-[(benzyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one (M. Chambers, et. al. Biomed. Chem, Lett. 1993, in press) (1.09g, 2.79 mmole) was mixed with 1.13 g (2.79 mmole) of 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide in 26 ml of toluene. The resulting suspension was heated to reflux for 1 hour. The reaction mixture was cooled, filtered, and concentrated in vacuo. The residue was flash chromatographed on silica gel (ethyl acetate-hexane, 1:3) and the product containing fractions were pooled and concentrated to give the title compound in approximately 85% purity. This material was recrystallized from hexane-ethyl acetate (1:1) to give 850 mg (75%) of the title compound in analytical form: m.p. 164°-165° C.

reactant | 1,3-Dihydro-5-cyclohexyl-3(R,S)-[(benzyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one | 2.79 mmole, 1.09g | C1(CCCCC1)C1=NC(C(NC2=C1C=CC=C2)=O)NC(=O)OCC2=CC=CC=C2 | C23H25N3O3
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 2.79 mmole, 1.13 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 26 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-dihydro-5-cyclohexyl-3(R,S)-[(benzyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-thione | C1(CCCCC1)C1=NC(C(NC2=C1C=CC=C2)=S)NC(=O)OCC2=CC=CC=C2 | C23H25N3O2S
